US06180622B2
Iodomethane (2.13 g) is added to 85.0 mg of allyl(1R,5S,6S)-2-[(3S,5R)-1-allyloxycarbonyl-5-(imidazo[5,1-b]thiazol-3-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate described in Example 20-b), and the mixture is stirred in an argon atmosphere in a light-shielded state at room temperature for 16 hr. The excess reagent is removed by evaporation under reduced pressure, and the residue is purified by column chromatography on Sephadex LH-20 (dichloromethane:methanol=1:1) to give 91.7 mg of allyl(1R,5S,6S)-2-[(3S,5R)-1-allyloxycarbonyl-5-(6-methylimidazo[5,1-b]thiazolium-3-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate iodide as a slightly yellow solid.

reactant | Iodomethane | 2.13 g | IC | CH3I
reactant | allyl(1R,5S,6S)-2-[(3S,5R)-1-allyloxycarbonyl-5-(imidazo[5,1-b]thiazol-3-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 85.0 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1CC=1N2C(SC1)=CN=C2)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | C27H32N4O6S2
product | allyl(1R,5S,6S)-2-[(3S,5R)-1-allyloxycarbonyl-5-(6-methylimidazo[5,1-b]thiazolium-3-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate iodide | 91.7 mg | [I-].C(C=C)OC(=O)N1C[C@H](C[C@H]1CC=1[N+]=2C(SC1)=CN(C2)C)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | InChI=1S/C28H35N4O6S2.HI/c1-6-8-37-27(35)24-25(16(3)23-22(17(4)33)26(34)32(23)24)40-20-11-18(30(12-20)28(36)38-9-7-2)10-19-14-39-21-13-29(5)15-31(19)21;/h6-7,13-18,20,22-23,33H,1-2,8-12H2,3-5H3;1H/q+1;/p-1/t16-,17-,18-,20+,22-,23-;/m1./s1
